US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 6,2′-difluoro-5′-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)biphenyl-3-carbonitrile (96 mg, 0.28 mmol) as described in Example 7 part g), affording 6,2′-difluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-3-carbonitrile (24 mg, 27%). δH (400 MHz, CDCl3) 7.35 (1H, t, J 9.0), 7.45 (1H, t, J 9.0), 7.52-7.61 (3H, m), 7.74-7.78 (1H, m), 7.83 (1H, dd, J 1.4 and 6.5), 7.87 (1H, d, J 8.6), 8.54 (1H, d, J 8.2), 9.30 (1H, d, J 4.3). m/z (ES) 412 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 6,2′-difluoro-5′-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)biphenyl-3-carbonitrile | 0.28 mmol, 96 mg | FC1=CC=C(C=C1C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C19H18BF2NO2
product | 6,2′-difluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-3-carbonitrile | 24 mg, 27% | FC1=CC=C(C=C1C1=C(C=CC(=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)F)C#N | C22H10F5N3
